US04761413
A solution of aniline (12.5 g, 0.134M) and i-amylnitrite (27.5 ml, 0.205M) in furan (400 ml) was stirred at 30° C. (bath temperature) for 24 hours under N2. The mixture was then washed with water and saturated NaCl solution, dried over anhydrous Na2SO4 and evaporated. The brown residue was filtered through a short column of neutral alumina (activity grade II) using pentane as an eluent. The fractions were combined and concentrated and the residue distilled in vacuo to give pure 2-phenylfuran (7.65 g, 39% yield), bp 51°-54° C. (1.0 mm). NMR (CDCl3) δ 6.45 ppm (dd, 1H, J=1.5, 3.0 Hz, furan-H4), 6.62 (d, 1H, J=4.0 Hz, furan-H3), 7.2-7.8 (m, 6H, phenyl and furan-H5).

reactant | aniline | 0.134M, 12.5 g | NC1=CC=CC=C1 | C6H7N
reactant | furan | 400 ml | O1C=CC=C1 | C4H4O
product | 2-phenylfuran | 7.65 g, 39% yield | C1(=CC=CC=C1)C=1OC=CC1 | C10H8O
